Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nifedipine / Amitriptyline / Prilosec OTC / Terazosin / 
Amlodipine / Atenolol / Oxybutynin / Hydrochlorothiazide / 
spironolactone / furosemide
 
Attending: ___.
 
Chief Complaint:
Fall, bradycardia.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ YO F w/ PMH significant for CAD, mild AS, afib/flutter on 
dabigatran, HFpEF, HTN, HLD, chronic hyponatremia, who presents 
after a fall at her nursing home.  

Pt unable to provide history, but per nursing home and OSH 
notes, in early AM on ___, pt fell and was discovered by nursing 
home RN. RN at that time noted that pt was confused and 
lethargic. HR at that time per report was in the ___. EMS was 
activated and pt brought to OSH ER. En route, EMS report 
indicates that heart rates were labile, but there are no EKG 
strips and unclear if pt received any cardiac medications. At 
OSH ER, pt's EKG revealed bradycardia to 20 with ventricular 
escape and no signs of atrial activity. The pt was then given 1 
mg of atropine with no effect and then transcutaneously paced 
for 1 hour. She was then noted to have HRs in the ___ and atrial 
activity. She was then transferred to ___ for possible PPM. 

Here at ___, noted to be intermittently lethargic and poorly 
responsive. CT head and neck negative. EP was consulted for 
possible PPM and initially recommended admission to ___, 
deferred PPM for the time being. She continued to be 
intermittently bradycardic to the ___ in the ED, but given that 
she has a history of previous bradycardia and has been 
asymptomatic with her episodes, she was felt to be stable for 
the floor. However, after this she had increasing respiratory 
distress requiring a NRB. Due to this she was admitted to the 
CCU. Received Lasix 60mg IV x1.
 
 Of note, pt's HCP reports that she had been more altered over 
the last week in the setting of higher doses of seroquel that 
the nursing home had started for increased agitation.  

In the ED initial vitals were: 98.3, HR 90, 142/73, 18, 93% RA  
EKG:  
Labs/studies notable for: Na 140, K 4.6, Cl 98 HCO3 35 BUN 58 Cr 
1.2 glu 125, WBC 7 Hct 34.8 AST 219 ALT 178 Trop 0.05 ___: 14.8 
PTT: 42.4 INR: 1.4 AGap=12 BNP 2900 Lactate 1.5. ABG: 
___

On arrival to the CCU: Awake but not answering questions. Pt 
does not speak ___, per report. On NRB. 
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CAD (100% LAD occlusion). MI ___ year ago. Unclear history of 
PCI.
- Afib/flutter on dabigatran 
- Mild aortic stenosis
3. OTHER PAST MEDICAL HISTORY 
- Chronic hyponatremia  
- Dementia

 
Social History:
___
Family History:
Mother deceased at ___ yo from breast cancer. Father deceased at 
___ yo. Son deceased at ___ yo from heart attack. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T 97.6 BP 132/103 HR 80 RR 21 O2 SAT 100% NRB
GENERAL: Ill appearing. Not answering questions. 
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP unable to assess due to restlessness.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Irregularly irregular. Normal S1, S2. II/VI systolic 
murmur at R sternal border. 
LUNGS: No chest wall deformities or tenderness. Tachypneic but 
withoug increased work of breathing. Faint crackles.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL

VS: T 97.6 BP 144/75 HR 54 RR 22 O2 SAT 92% 2 L NC 

GENERAL: Skinny, somewhat anxious. Oriented to self only.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP unable to assess due to restlessness.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Irregularly irregular. Normal S1, S2. II/VI systolic 
murmur at R sternal border. 
LUNGS: No chest wall deformities or tenderness. Tachypneic no 
signs respiratory distress. Lungs clear to auscultation 
bilaterally. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS:
___ 12:45PM BLOOD WBC-10.0 RBC-3.55* Hgb-10.5* Hct-34.8 
MCV-98 MCH-29.6 MCHC-30.2* RDW-13.1 RDWSD-46.9* Plt ___
___ 12:45PM BLOOD Neuts-87.3* Lymphs-5.0* Monos-7.0 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.76* AbsLymp-0.50* 
AbsMono-0.70 AbsEos-0.00* AbsBaso-0.02
___ 12:45PM BLOOD ___ PTT-42.4* ___
___ 12:45PM BLOOD Glucose-125* UreaN-58* Creat-1.2* Na-140 
K-4.6 Cl-98 HCO3-35* AnGap-12
___ 12:45PM BLOOD proBNP-2915*
___ 12:45PM BLOOD cTropnT-0.05*
___ 05:51AM BLOOD CK-MB-9 cTropnT-0.13*
___ 05:51AM BLOOD Calcium-10.1 Phos-4.6* Mg-2.5
___ 08:10PM BLOOD ___ pO2-23* pCO2-79* pH-7.29* 
calTCO2-40* Base XS-6
___ 12:52PM BLOOD Lactate-1.5

PERTINENT RESULTS:
___ 12:45PM BLOOD cTropnT-0.05*
___ 05:51AM BLOOD CK-MB-9 cTropnT-0.13*
___ 12:52PM BLOOD Lactate-1.5
___ 11:47PM BLOOD Lactate-1.0
___ 06:04AM BLOOD Lactate-2.9*

DISCHARGE LABS:

___ 05:51AM BLOOD WBC-7.8 RBC-3.90 Hgb-11.3 Hct-37.7 MCV-97 
MCH-29.0 MCHC-30.0* RDW-13.2 RDWSD-46.2 Plt ___
___ 05:51AM BLOOD ___ PTT-36.7* ___
___ 05:51AM BLOOD Glucose-89 UreaN-56* Creat-1.2* Na-141 
K-4.1 Cl-97 HCO3-31 AnGap-17
___ 05:51AM BLOOD CK-MB-9 cTropnT-0.13*

IMAGING:
CHEST XRAY ___: Large right and moderate left pleural 
effusions and severe bibasilar atelectasis are unchanged.  
Cardiac silhouette is obscured. No pneumothorax. Pulmonary edema 
is mild, obscured radiographically by overlying abnormalities. 

MICROBIOLOGY:
None.

 
Brief Hospital Course:
Ms. ___ is ___ year old female with a past medical history 
significant for CAD, mild AS, afib/flutter on dabigatran, HTN, 
HLD, chronic hyponatremia, who presented to ___ on transfer 
from OSH after a fall and headstrike when subsequently found to 
be bradycardic to the ___. She was transferred here externally 
paced and was seen by our EP physicians. After discussion with 
patient's healthcare proxy, it was decided not to purse 
pacemaker placement and to withdraw external pacemaker. She 
initially became profoundly bradycardic from ___ beats per 
minute but stabilized to the ___ overnight. She was made 
DNR/DNI/DNH and sent back to senior living facility 
hemodynamically stable. Of note CT head at outside facility was 
negative. 

TRANSITIONAL ISSUES
====================
- Per discussion with patient's sister, ___, 
patient was made DNH in addition to her DNR/DNI. She will need a 
new MOLST signed by her sister and the doctors at ___ 
___
- She will also need a palliative care consult with possible 
escalation to hospice care as needed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Artificial Tears ___ DROP BOTH EYES BID 
2. Aspirin 81 mg PO DAILY 
3. Dabigatran Etexilate 75 mg PO BID 
4. Vitamin D ___ UNIT PO EVERY 3 WEEKS 
5. Escitalopram Oxalate 15 mg PO DAILY 
6. Losartan Potassium 37.5 mg PO DAILY 
7. QUEtiapine Fumarate 12.5 mg PO QHS 
8. Senna 17.2 mg PO QHS 
9. Sodium Chloride Nasal ___ SPRY NU BID:PRN congestion 
10. Torsemide 60 mg PO DAILY 
11. OxyCODONE (Immediate Release) 2.5 mg PO QAM 
12. LORazepam 0.5 mg PO Q6H:PRN anxiety 
13. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Artificial Tears ___ DROP BOTH EYES BID  
3.  Dabigatran Etexilate 75 mg PO BID  
4.  Escitalopram Oxalate 15 mg PO DAILY  
5.  LORazepam 0.5 mg PO Q6H:PRN anxiety  
6.  Losartan Potassium 37.5 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 2.5 mg PO QAM  
8.  QUEtiapine Fumarate 12.5 mg PO QHS  
9.  Senna 17.2 mg PO QHS  
10.  Sodium Chloride Nasal ___ SPRY NU BID:PRN congestion  
11.  Torsemide 60 mg PO DAILY  
12.  Vitamin D ___ UNIT PO EVERY 3 WEEKS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bradycardia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why was I here?
- You originally went to another hospital because you fell and 
hit your head.
- You were found to have a very slow heart rate and transferred 
here to ___ for further management

What was done while I was in the hospital?
- A CT scan of your head and neck at the outside hospital was 
done and was normal.
- You were transferred here with an external pacemaker to bring 
your heart rate up but we eventually decided to withdraw this 
device. 
- You were seen by our electrophysiologists, who did not decided 
to put in a pacemaker at this time.

What should I do when I get home?
- Take your old medications as prescribed.

All the best,

Your ___ team
 
Followup Instructions:
___